US09102671B2
A N2 purged flask was charged with 5-bromo-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-26) (25 mg, 0.05 mmol), palladium acetate (1.0 mg, 5.1 μmol), xantphos (4.5 mg, 7.8 μmol), cesium carbonate (24 mg, 0.07 mmol), 1,4-dioxane (0.25 mL) and 3-fluoro-5-((2R,4S)-4-fluoropyrrolidin-2-yl)benzonitrile (I-15) (11 mg, 0.05 mmol). The contents were heated to 140° C. for 30 minutes under microwave irradiation. Upon cooling to room temperature the reaction was partitioned with EtOAc and water. The organic layer was washed with water, brine, dried over magnesium sulfate, filtered and reduced to dryness. The crude product was purified by column chromatography on silica gel with EtOAc/hexanes gradient as eluant to yield 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-53). 1H NMR (400 MHz, CDCl3) δ 8.14 (d, J=7.6 Hz, 1 H), 7.78 (s, 1 H), 7.38 (s, 1 H), 7.30-7.26 (m, 1 H), 7.25-7.23 (m, 1 H), 7.22-7.16 (m, 5 H), 6.92-6.87 (m, 4 H), 6.16 (dd, J=2.4, 7.6 Hz, 1 H), 5.40 (d, J=52.4 Hz, 1 H), 5.09 (dd, J=6.8, 9.2 Hz, 1 H), 4.74 (d, J=16.0 Hz, 2 H), 4.50 (d, J=15.6 Hz, 2 H), 4.22-3.94 (m, 2 H), 3.82 (s, 6 H), 2.96-2.84 (m, 1 H), 2.07 (dddd, J=4.0, 9.6, 13.6, 40.0 Hz, 1 H). MS m/z 608.1 (M+1)+.

reactant | 5-bromo-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 0.05 mmol, 25 mg | BrC1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C24H22BrN3O3
reactant | xantphos | 7.8 μmol, 4.5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.07 mmol, 24 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-fluoro-5-((2R,4S)-4-fluoropyrrolidin-2-yl)benzonitrile | 0.05 mmol, 11 mg | FC=1C=C(C#N)C=C(C1)[C@@H]1NC[C@H](C1)F | C11H10F2N2
catalyst | palladium acetate | 5.1 μmol, 1.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 0.25 mL | O1CCOCC1 | C4H8O2
product | 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(C[C@H](C1)F)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C35H31F2N5O3
